US06933295B2
5-Chloro-N-(2-{4-[2-imino-2-(propylamino)ethyl]benzyl}-1,3-dioxo-2,3-dihydro-1H-isoindol-4-yl)-2-thiophenecarboxamide
1.5 g (3.1 mmol) of methyl 2-{4-[(4-{[(5-chloro-2-thienyl)carbonyl]amino}-1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)methyl]phenyl}ethaneimidothioate are suspended in 190 ml of methanol, and 280 mg (4.65.mmol) of ethylenediamine and 370 mg (6.2 mmol) of acetic acid are added. The mixture is stirred at room temperature overnight, diluted with methanol and methylene chloride until a clear solution is formed and adsorbed on silica gel. Chromatography on silica gel (CH2Cl2/EtOH=10/1 to 3/1) gives 570 mg (31% of theory) of the desired compound. The product is dissolved in methanol and methylene chloride, and trifluoroacetic acid is added. Removal of the solvent under reduced pressure gives the product as trifluoroacetic acid salt. Alternatively, the purification can also be carried out by chromatography on an RP8 silica gel column (water/acetonitrile=4/1+0.1% trifluoroacetic acid to 1/1+0.1% trifluoroacetic acid).

reactant | methyl 2-{4-[(4-{[(5-chloro-2-thienyl)carbonyl]amino}-1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)methyl]phenyl}ethaneimidothioate | 3.1 mmol, 1.5 g | ClC1=CC=C(S1)C(=O)NC1=C2C(N(C(C2=CC=C1)=O)CC1=CC=C(C=C1)CC(=N)SC)=O | C23H18ClN3O3S2
reactant | ethylenediamine | 280 mg | C(CN)N | C2H8N2
reactant | acetic acid | 6.2 mmol, 370 mg | C(C)(=O)O | C2H4O2
solvent | methanol | 190 ml | CO | CH4O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 5-Chloro-N-(2-{4-[2-imino-2-(propylamino)ethyl]benzyl}-1,3-dioxo-2,3-dihydro-1H-isoindol-4-yl)-2-thiophenecarboxamide | ClC1=CC=C(S1)C(=O)NC1=C2C(N(C(C2=CC=C1)=O)CC1=CC=C(C=C1)CC(NCCC)=N)=O | C25H23ClN4O3S
